US07795255B2
(3-Azidopropyl)phosphonic acid diethyl ester (240 mg, 1.08 mmol) and activated Pd/C (20 mg) were suspended in methanol (50 ml) and stirred under H2 atmosphere at 40 psi for 3 hours. The black suspension was filtered on Celite, and the solvent was removed under vacuum to give pure (3-aminopropyl)phosphonic acid diethyl ester (205 mg, 99% yield).

reactant | (3-Azidopropyl)phosphonic acid diethyl ester | 1.08 mmol, 240 mg | C(C)OP(OCC)(=O)CCCN=[N+]=[N-] | C7H16N3O3P
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | (3-aminopropyl)phosphonic acid diethyl ester | 205 mg, 99% yield | C(C)OP(OCC)(=O)CCCN | C7H18NO3P
